*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/6.80e-02[uF]/25[V]
* Murata P/N :GRM155B31E683MA87
* Property : C = 6.80e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B31E683MA87 Port1 Port2
C01 Port1 N01 6.53e-08
R01 Port1 N01 7.35e+09
L02 N01 N02 1.74e-10
R03 N02 N03 1.97e-02
C04 N03 N04 7.14e-06
R04 N03 N04 5.57e+02
C05 N04 N05 1.27e-05
R05 N04 N05 5.32e+01
C06 N05 N06 9.04e-06
R06 N05 N06 1.34e+01
C07 N06 N07 7.87e-06
R07 N06 N07 1.72e+00
C08 N07 N08 8.51e-06
R08 N07 N08 1.96e-01
C09 N08 N09 9.19e-06
R09 N08 N09 5.13e-02
C10 N09 N10 4.81e-06
R10 N09 N10 1.89e-02
L11 N10 N11 8.43e-11
R11 N10 N11 8.34e-02
L12 N11 N12 9.46e-12
R12 N11 N12 6.76e-02
C13 N12 N13 4.28e-07
L13 N12 N13 1.11e-11
R13 N12 N13 1.14e-02
C14 N13 N14 1.68e-07
L14 N13 N14 1.54e-11
R14 N13 N14 2.20e-02
C15 N14 Port2 3.31e-12
L15 N14 Port2 1.02e-10
R15 N14 Port2 1.50e+01
.ENDS GRM155B31E683MA87
